US05013829
To a solution of 8-bromo-2'-deoxyadenosine (0.403 g, 1.22 mmol) in DMF (25 ml) was added sodium azide (0.278 g, 4.27 mmol), and the mixture stirred at 90° C. for 2 h. The solvent was removed and the residue was purified on silica gel (10% methanol/chloroform) to give 0.325 g (91%) of 8-azido-2'-deoxyadenosine: 1H NMR (Me2SO-d6)δ2.17 (m, 2H), 3.59 (m, 2H), 3.82 (m, 1H), 4.42 (m, 1H), 5.25 (m, 2H), 6.11 (m, 1H), 7.24 (br.s, 2H), 8.07 (s, 1H); UV (H2O) λmax 282.5 nm; FTIF (KBr) 2155 cm-1. 8-Azido-2'-deoxyadenosine was silylated by Procedure A (77% yield) and then reduced, dideoxygenated, and converted to 8-amino-2',3'-dideoxyadenosine (VIII) using in sequence Procedure D (79%), Procedure E (77%), and Procedure F (81%): mp 177°-179° C., 13C NMR (Me2SO-d6) δ26.0, 29.0, 63.1, 79.5, 83.9, 117.1, 148.4, 148.9, 151.4, 152.3; 1H NMR (Me2SO-d6) 2.16 (m, 4H), 3.61 (m, 2H), 4.11 (m, 1H), 5.54 (m, 1H), 6.10 (m, 1H), 6.40 (br.s, 2H), 6.52 (br.s, 2H), 7.89 (s, 1H); UV (H2O) λmax 273.5 nm (λ13950); FAB HRMS obsd (M+ +H) 251.1266, calcd for C10H14N6O2 251.1257.

reactant | 8-bromo-2'-deoxyadenosine | 1.22 mmol, 0.403 g | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
reactant | sodium azide | 4.27 mmol, 0.278 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 8-azido-2'-deoxyadenosine | 0.325 g, 91% | N(=[N+]=[N-])C=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12N8O3
